US07393624B2
4a) Synthesis of norbornene-5-carbonylchloride:
A 1-L, three-neck round-bottom flask equipped with a magnetic stirrer, digital thermometer, glass stopper, an addition funnel with a nitrogen gas purge, and a dry-ice cooling bath was charged with freshly distilled cyclopentadiene (248 g, 3.75 mol), which was cooled to 0° C. The addition funnel was charged with freshly distilled acryloyl chloride (317 g, 3.5 mol), which was added drop wise to the reaction over about three hours while maintaining the reaction temperature between 0-10° C. After the acryloyl chloride addition was complete, the cooling bath was removed and the reaction allowed to warm to room temperature overnight. The reaction mixture was distilled under vacuum, collecting 533 g of the title product distilling at 54-56° C. at a pressure of 300 milliTorr.

reactant | cyclopentadiene | 3.75 mol, 248 g | C1=CC=CC1 | C5H6
reactant | acryloyl chloride | 3.5 mol, 317 g | C(C=C)(=O)Cl | C3H3ClO
product | norbornene-5-carbonylchloride | C12C=CC(C(C1)C(=O)Cl)C2 | C8H9ClO
